US05407936
A mixture of 2,5-dichloro-1-isopropylbenzimidazole (7 g) and N-methylpiperazine (10 g) was stirred at 140° C. for 3.5 hours. After cooling, 2N hydrochloric acid was added to the mixture and the mixture was washed with ethyl acetate. The 2N hydrochloric acid layer was made basic with an aqueous 2N sodiumhydroxide solution and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated sodium chloride solution and dried over anhydrous magnesium sulfate and then the solvent was distilled off under reduced pressure to give 5-chloro-1-isopropyl-2-(4-methyl-1-piperazinyl)benzimidazole (4.2 g). A part of the obtained product was recrystallized from acetonitrile, which showed the following physical properties:

reactant | 2,5-dichloro-1-isopropylbenzimidazole | 7 g | ClC1=NC2=C(N1C(C)C)C=CC(=C2)Cl | C10H10Cl2N2
reactant | N-methylpiperazine | 10 g | CN1CCNCC1 | C5H12N2
reactant | hydrochloric acid | 2N | Cl | ClH
product | 5-chloro-1-isopropyl-2-(4-methyl-1-piperazinyl)benzimidazole | 4.2 g | ClC1=CC2=C(N(C(=N2)N2CCN(CC2)C)C(C)C)C=C1 | C15H21ClN4
